US08669271B2
4-[5-(6-Chloro-2-methyl-pyridin-3-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester
The title compound is prepared from 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester and 6-chloro-2-methylpyridine-3-boronic acid following a procedure analogous to that described for Intermediate 15. LC (method 6): tR=1.41 min; Mass spectrum (ESI+): m/z=415 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)Br | C17H22BrNO3
reactant | 6-chloro-2-methylpyridine-3-boronic acid | ClC1=CC=C(C(=N1)C)B(O)O | C6H7BClNO2
product | 4-[5-(6-Chloro-2-methyl-pyridin-3-yl)-2,3-dihydro-benzofuran-2-yl]-piperidine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCC(CC1)C1OC2=C(C1)C=C(C=C2)C=2C(=NC(=CC2)Cl)C | C23H27ClN2O3
